US06632389B1
Vitamin A oil:
mixture of vitamin A acetate, 2.8 million IU/G unstab. (80% by weight) (BASF AG) and ethoxyquin (20% by weight) (Raluquin®, Raschig AG) was fed at 60° C. via a heated pump unit.

reactant | vitamin A acetate | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/COC(=O)C)/C)/C | C22H32O2
reactant | ethoxyquin | CCOC1=CC=C2C(=C1)C(=CC(N2)(C)C)C | C14H19NO
product | Vitamin A oil | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/CO)/C)/C | C20H30O
